US08476297B2
To a solution of (S)-1-phenylpropan-2-amine (323 mg, 2389 μmol) in benzene (5 mL) was added 4-bromobenzaldehyde (442 mg, 2389 μmol and MgSO4 (500 mg, 4154 μmol) and the suspension was stirred at RT 4 h. The suspension was filtered and the solid washed with benzene (2×2 mL). The combined filtrates were concentrated to give (S)—N-(4-bromobenzylidene)-1-phenylpropan-2-amine which was used without purification in the next step.

reactant | (S)-1-phenylpropan-2-amine | 2389 μmol, 323 mg | C1(=CC=CC=C1)C[C@H](C)N | C9H13N
reactant | 4-bromobenzaldehyde | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | MgSO4 | 4154 μmol, 500 mg | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | benzene | 5 mL | C1=CC=CC=C1 | C6H6
product | (S)—N-(4-bromobenzylidene)-1-phenylpropan-2-amine | BrC1=CC=C(C=N[C@H](CC2=CC=CC=C2)C)C=C1 | C16H16BrN
